US07371872B2
Ethyl 2-[((1R)-1-phenylethyl)amino](2S,4S,6R)-2-(ethoxycarbonyl)-4-hydroxybicyclo[3.1.0]hexane-6-carboxylate
To a suspension of 2-[((1R)-1-phenylethyl)amino](2S,4S,6R)-4-hydroxybicyclo[3.1.0]hexane-2,6-dicarboxylic acid (4 g, 13 mmol) in 48 mL of ethanol at room temperature is added acetyl chloride (11.2 mL, 157 mmol) via an addition funnel such that a gentle reflux is maintained. The resulting mixture is allowed to stir another 16 hours at reflux and upon cooling to room temperature is concentrated in vacuo to a solid residue. The solid is treated slowly with a solution of sodium bicarbonate (6.6 g) in 100 mL of water followed by washing with ethyl acetate (2×100 mL). The combined organics are dried (MgSO4), filtered, and concentrated in vacuo to give 4.7 g (99%) of the title compound as a solid. Column chromatography on silica gel eluting with CH2Cl2/MeOH (95:5) followed by crystallization from Et2O provides an analytically pure sample of the title compound as a white solid.

reactant | 2-[((1R)-1-phenylethyl)amino](2S,4S,6R)-4-hydroxybicyclo[3.1.0]hexane-2,6-dicarboxylic acid | 13 mmol, 4 g | C1(=CC=CC=C1)[C@@H](C)N[C@@]1(C2[C@H](C2[C@H](C1)O)C(=O)O)C(=O)O | C16H19NO5
reactant | acetyl chloride | 157 mmol, 11.2 mL | C(C)(=O)Cl | C2H3ClO
reactant | ethanol | 48 mL | C(C)O | C2H6O
product | Ethyl 2-[((1R)-1-phenylethyl)amino](2S,4S,6R)-2-(ethoxycarbonyl)-4-hydroxybicyclo[3.1.0]hexane-6-carboxylate | 4.7 g, 99% | C1(=CC=CC=C1)[C@@H](C)N[C@@]1(C2[C@H](C2[C@H](C1)O)C(=O)OCC)C(=O)OCC | C20H27NO5
